US07687510B2
6-Amino-4-(4-cyanophenyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile
400 mg (1.97 mmol) N-[3-(trifluoromethyl)phenyl]urea, 199 mg (1.51 mmol) 4-cyanobenzaldehyde and 100 mg (1.51 mmol) malononitrile are suspended in 2 ml of THE, and catalytic amounts of concentrated hydrochloric acid are added. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with dichloromethane/methanol as eluent.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 1.97 mmol, 400 mg | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-cyanobenzaldehyde | 1.51 mmol, 199 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | malononitrile | 1.51 mmol, 100 mg | C(CC#N)#N | C3H2N2
reactant | hydrochloric acid | Cl | ClH
product | 6-Amino-4-(4-cyanophenyl)-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile | NC1=C(C(NC(N1C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C=C1)C#N)C#N | C19H12F3N5O
